US05639778
Dipropylamino-1,3,6,7,8,9-hexahydro-benzo[e]indol-2-one (10h, Chart 2).
To a solution of dipropyl-(6,7,8,9-tetrahydro-3H-benzo[e]indol-7-yl)amine (200 mg, 0.74 mmol), water (5 ML) in acetic acid (50 mL) was added dropwise to a solution of pyridiniumhydrobromide perbromide (310 mg, 0.91 mmol) in acetic acid (100 mL). The solution was heated and stirred at 80° C. over night. After cooling the solution was evaporated to an aqueous residue, which was basified (10% sodium carbonate) and extracted three times with ethyl acetate. The organic extract was dried (magnesium sulfate), filtered and evaporated to yield 210 mg (100%) of the material.:

reactant | dipropyl-(6,7,8,9-tetrahydro-3H-benzo[e]indol-7-yl)amine | 0.74 mmol, 200 mg | C(CC)N(C1CC2=C(C=3C=CNC3C=C2)CC1)CCC | C18H26N2
reactant | water | O | H2O
reactant | pyridiniumhydrobromide | Br.[NH+]1=CC=CC=C1
reactant | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
reactant | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | Dipropylamino-1,3,6,7,8,9-hexahydro-benzo[e]indol-2-one | 210 mg, 100% | C(CC)N(CCC)C1C(NC=2C=CC3=C(C12)CCCC3)=O | C18H26N2O
